US04550166
A 3.0 g portion of α-[3-(dimethylamino)-2-propenylidene]-3-pyridineacetonitrile was dissolved in 100 ml of glacial acetic acid. Dry hydrogen chloride gas (about 2.5 g) was introduced and the solution was heated at 60° C. for 3 hours. The reaction was cooled to 20° C. and then poured onto 200 g of ice. The solution was basified with potassium carbonate and then extracted with four 100 ml portions of methylene chloride. The organic extracts were combined, dried and the solvent removed at reduced pressure, giving an oil. This oil was dissolved in ethyl acetate:hexane (1:1) and passed through a pad of hydrous magnesium silicate. The solid obtained was recrystallized from hexane, giving 2-chloro-3,3'-bipyridine as white needles, mp 92°-93.5° C.

reactant | α-[3-(dimethylamino)-2-propenylidene]-3-pyridineacetonitrile | CN(C=CC=C(C#N)C=1C=NC=CC1)C | C12H13N3
reactant | hydrogen chloride | about 2.5 g | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | magnesium silicate | [Si]([O-])([O-])([O-])[O-].[Mg+2].[Mg+2]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2-chloro-3,3'-bipyridine | ClC1=NC=CC=C1C=1C=NC=CC1 | C10H7ClN2
